US07700641B2
Synthesis of 2-methyl-1′-pentylspiro[furo[2,3-f][1,3]benzothiazole-7,3′-indol]-2′(1′H)-one
Following the procedure as described in EXAMPLE 1.22, and making non-critical variations using 3-(hydroxymethyl)-3-(5-hydroxy-2-methyl-1,3-benzothiazol-6-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one to replace 4,7-dichloro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one, the title compound was obtained (50%) as a white solid: mp 105-107° C.; 1H NMR (300 MHz, CDCl3) δ 7.59 (d, 1H), 7.28 (dt, 1H), 7.02-6.92 (m, 2H), 5.02 (d, 1H), 4.77 (d, 1H), 4.01 (m, 1H), 3.64 (m, 1H), 2.54 (s, 3H), 1.92-1.71 (m, 2H), 1.54-1.34 (m, 4H), 0.92 (t, 3H); 13C NMR (75 MHz, CDCl3) δ 176.7, 169.2, 160.2, 149.2, 142.7, 138.3, 132.7, 129.0, 128.6, 123.5, 122.7, 122.1, 120.2, 108.6, 108.3, 80.1, 58.1, 40.7, 29.1, 27.0, 22.5, 20.2, 14.1; MS (ES+) m/z 379.5 (M+1).

reactant | 3-(hydroxymethyl)-3-(5-hydroxy-2-methyl-1,3-benzothiazol-6-yl)-1-pentyl-1,3-dihydro-2H-indol-2-one | OCC1(C(N(C2=CC=CC=C12)CCCCC)=O)C1=CC2=C(N=C(S2)C)C=C1O | C22H24N2O3S
reactant | 4,7-dichloro-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1-pentyl-1,3-dihydro-2H-indol-2-one | ClC1=C2C(C(N(C2=C(C=C1)Cl)CCCCC)=O)(CO)C1=CC2=C(OCO2)C=C1O | C21H21Cl2NO5
product | 2-methyl-1′-pentylspiro[furo[2,3-f][1,3]benzothiazole-7,3′-indol]-2′(1′H)-one | CC=1SC2=C(N1)C=C1C(=C2)C2(C(N(C3=CC=CC=C23)CCCCC)=O)CO1 | C22H22N2O2S
